US09168245B2
Synthesis of intermediate I-a: 1,3-dibromo-5-isopropoxy-benzene
To a solution of NaH 60% dispersion in mineral oil (1.89 g, 47.25 mmol) in dry DMF (20 mL) under inert atmosphere was added dropwise at 0° C. i-PrOH (3.62 mL, 47.25 mmol). The mixture was stirred at 0° C. for 15 min. Then, a solution of 1,3-dibromo-5-fluoro-benzene (1.98 mL, 15.75 mmol) in dry DMF (20 mL) was added dropwise at 0° C. The reaction mixture was stirred for 16 h at room temperature. A saturated solution of NaHCO3 was added dropwise and the crude product was extracted with Et2O (2 times), the organic layer was washed with a saturated solution of NaHCO3 (3 times), then with a saturated solution of NaCl, dried over MgSO4 and concentrated to give I-a as yellow oil in quantitative yield. 1H RMN (300 MHz, CDCl3) δ 7.21 (t, J=1.4 Hz, 1H), 6.97 (d, J=1.5 Hz, 2H), 4.61-4.40 (m, 1H), 1.32 (d, J=6.0 Hz, 6H).

reactant | NaH | [H-].[Na+]
reactant | i-PrOH | 47.25 mmol, 3.62 mL | CC(C)O | C3H8O
reactant | 1,3-dibromo-5-fluoro-benzene | 15.75 mmol, 1.98 mL | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1,3-dibromo-5-isopropoxy-benzene | quantitative yield | BrC1=CC(=CC(=C1)OC(C)C)Br | C9H10Br2O
